US05100895
5-Bromo-2-chloro-4-(2-hydroxyethylamino)quinazoline
To a stirred mixture of 5-bromo-2,4-dichloroquinazoline (2.3 g, 8.2 mmol) and triethylamine (1.5 ml, 11 mmol) in dichloromethane (100 ml) was added ethanolamine (0.64 ml, 11 mmol), and the mixture was stirred for 30 min. The solvent was evaporated and the residue treated with a mixture of water (30 ml) and ether (20 ml) giving the title compound as a crystalline precipitate which was collected by filtration and dried, m.p. 165°-67° C.

reactant | 5-bromo-2,4-dichloroquinazoline | 8.2 mmol, 2.3 g | BrC1=C2C(=NC(=NC2=CC=C1)Cl)Cl | C8H3BrCl2N2
reactant | triethylamine | 11 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethanolamine | 11 mmol, 0.64 ml | C(O)CN | C2H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-Bromo-2-chloro-4-(2-hydroxyethylamino)quinazoline | BrC1=C2C(=NC(=NC2=CC=C1)Cl)NCCO | C10H9BrClN3O
